### ISSUE TITLE
Proof obligation for `concreteRounding_useHint_bound_of_isApproved` in `LatticeCrypto/MLDSA/Concrete/Rounding.lean`

### ISSUE THREAD

**Issue by quangvdao** [Verified-zkEVM/VCV-io#216]
A proof in `LatticeCrypto/MLDSA/Concrete/Rounding.lean` contains a `sorry`.

**Goal:** Replace the `sorry` with a complete proof.

[Link to the sorry on GitHub](https://github.com/Verified-zkEVM/VCV-io/blob/master/LatticeCrypto/MLDSA/Concrete/Rounding.lean#L1861)

**Code Snippet:**
```lean
    rw [hadd]
    exact congrArg (fun n : ℕ => (n : Coeff))
      (useHintCoeff_correct_of_small_of_isApproved p hp (z := z.get j) (r := r.get j) hzj)
  simpa [Vector.get_eq_getElem] using hcoef

theorem concreteRounding_useHint_bound_of_isApproved (p : Params)
```
